US08440689B2
A. tert-Butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate
To a stirred suspension of tert-butyl 4,6-dichloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (12.5 g, 38.9 mmol) in 2-propanol (72 mL) was added a solution of tert-butyl (1S,2R)-2-aminocyclohexylcarbamate (10.01 g, 46.7 mmol) in DMSO (12.00 mL) and DIPEA (8.84 mL, 50.6 mmol). The reaction mixture was heated to 90° C. for 16 h at which point it was cooled to 50° C. and water (50 mL) was added dropwise to give a precipitate. The suspension was stirred at 50° C. for 1 h then cooled to RT. The suspension was reheated to 50° C. for 15 min and cooled to RT for two more cycles. The solids were subsequently filtered and washed with isopropanol (20 mL) and dried on a filter to give the title compound (9.538 g, 49%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.18-1.76 (br m, 26H), 3.83 (br s, 1H), 4.12 (br s, 1H), 4.72 (s, 2H), 6.71 (d, J=7.58 Hz, 1H), 7.22 (d, J=6.32 Hz, 1H).

reactant | tert-butyl 4,6-dichloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 38.9 mmol, 12.5 g | ClC1=NC(=C(C2=C1C(N(C2)C(=O)OC(C)(C)C)=O)F)Cl | C12H11Cl2FN2O3
reactant | tert-butyl (1S,2R)-2-aminocyclohexylcarbamate | 46.7 mmol, 10.01 g | N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C11H22N2O2
reactant | DIPEA | 50.6 mmol, 8.84 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | water | 50 mL | O | H2O
solvent | 2-propanol | 72 mL | CC(C)O | C3H8O
solvent | DMSO | 12.00 mL | CS(=O)C | C2H6OS
product | tert-Butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 9.538 g, 49% | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)Cl)C(N(C2)C(=O)OC(C)(C)C)=O)F | C23H32ClFN4O5
